US08071600B2
A dichloromethane solution (36 ml) of 2M boron tribromide was added dropwise to a dichloromethane solution of 6-methoxy-2,2-dimethyl-4H-benzo[1,4]oxazin-3-one (5.0 g, 26 mmol) under ice cooling and the mixture was stirred overnight. Water was added to the reaction solution to decompose the reagents excessively present. The reaction solution was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=2:1). The purified product was concentrated to dryness under reduced pressure to obtain 6-hydroxy-2,2-dimethyl-4H-benzo[1,4]oxazin-3-one (4.02 g) as white powder.

reactant | dichloromethane | 36 ml | ClCCl | CH2Cl2
reactant | boron tribromide | 2M | B(Br)(Br)Br | BBr3
reactant | 6-methoxy-2,2-dimethyl-4H-benzo[1,4]oxazin-3-one | 26 mmol, 5.0 g | COC=1C=CC2=C(NC(C(O2)(C)C)=O)C1 | C11H13NO3
solvent | Water | O | H2O
product | 6-hydroxy-2,2-dimethyl-4H-benzo[1,4]oxazin-3-one | 4.02 g | OC=1C=CC2=C(NC(C(O2)(C)C)=O)C1 | C10H11NO3
